US04985560
N-[3-(4-Morpholinyl)propyl]-4-methylpyridazino[4,5-b]indolizin-1-amine
Following the procedure of Example 1, reaction of one equivalent of 1-chloro-4-methylpyridazino[4,5-b]indolizine and 10 equivalents of 4-(3-aminopropyl)morpholine gave the title compound as the free base which was converted to the dihydrochloride salt, mp. 295°-296° C. (after recrystallization from ethanol).

reactant | 1-chloro-4-methylpyridazino[4,5-b]indolizine | one equivalent | ClC1=NN=C(C2=C1C=C1C=CC=CN21)C | C11H8ClN3
reactant | 4-(3-aminopropyl)morpholine | 10 equivalents | NCCCN1CCOCC1 | C7H16N2O
product | N-[3-(4-Morpholinyl)propyl]-4-methylpyridazino[4,5-b]indolizin-1-amine | N1(CCOCC1)CCCNC=1N=NC(=C2C1C=C1C=CC=CN21)C | C18H23N5O
